Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
flu-like symptoms, ___  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year.-old female with history of 
hypertension, iron deficiency anemia, and asthma presenting with 
persistent nausea, vomiting, malaise, and loose stools, referred 
by urgent care urgent for evaluation of ___.  
 She was in her usual state of health until ___ days prior to 
presentation when she developed subjective fevers, chills, dry 
cough, muscle pain (especially in back and shoulders). She 
intermittently felt nauseated and has had several episodes of 
vomiting No dyspnea. Legs were sore but not swollen. Reports a 
couple episodes of vomiting and diarrhea, poor appetite and 
little food/fluid intake. She noticed mild abdominal pain 
especially when trying to sleep, and was unable to get 
comfortable in bed. Denies headache, chest pain, dyspnea, 
abdominal distention, joint pain, lower extremity edema, rash, 
petechiae.  
 
 Two days prior to admission she went to urgent care and BP was 
100/60 and she had an ___ given 3 L NS and felt a little better 
but still very weak. She had no improvement in her symptoms. 
Back at urgent care today BP was 115/63. She is on hctz for HTN 
and last took in took it on ___ (4 days ago). She has been 
urinating less than normal. Took Aleve ___ pills daily for the 
past few days. No sick contacts except someone at work who had a 
cold.  
 Serum Cr was 0.94 in ___ and then 3.0 on her inintial 
urgent care visit; repeat on the day of admission was 2.6. 
Potassium borderline low; normal Na. Hb 8.8 which is similar to 
previous values. Urine dipstick yesterday 3+ protein, 3+ blood, 
specific gravity 1.025, no leukocyte esterase.  
 
 In the ED, initial vitals were: 0 98.8 70 146/73 18 100% RA  
 - Labs notable for:  
 -- creatinine 2.3, BUN 33, HCO3 20, K 3.7, Na 143, anion gap 18 
 
 -- UA with moderate blood, few bacteria, 600 protein, otherwise 
negative  
 --WBC 5.3, Hgb 7.7, Plt 253  
 -- ALT 17, AST 55, Albumin 2.3, Tbili <0.2, lipase 34  
 --CRP 28.8  
 --C3 108, C4 47(elevated)  
 --CK 1004  
 --troponin normal  
 - Imaging was notable for:  
 #Renal ultrasound ___:  
 Echogenic kidneys suggestive of chronic medical renal disease. 
No  
 hydronephrosis bilaterally.  
 - Patient was given: normal saline, Maalox, Zofran, donnatal, 
viscous lidocaine, which helped reduce her abdominal pain  
 
Past Medical History:
 Hypertension  
 Asthma  
 Cervical dysplasia or atypia  
 Varicose veins  
 Motor vehicle accident  
 History of tubal ligation
 
Social History:
___
Family History:
Brother ___  
 Father ___ Hypertension  
 Maternal Grandfather ___  
 ___ Grandmother ___ Cancer[Other] [OTHER]  
 Mother ___ [Other] [OTHER]  
 Sister ___  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
 PHYSICAL EXAM:  
 Vital Signs: T 98.6 bp 150 / 76 HR 67 RR20 SPO2 100 Ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, dry oral mucosa, oropharynx clear, 
EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm, no murmurs  
 Lungs: Faint diffuse wheezing, no rales or rhonchi. Unlabored 
breathin on room air. Frequent non-productive coughing  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No swelling of the knees, elbows, wrists, fingers, toes, 
ankles. Normal painless ROM in all joints.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation,  

DISCHARGE PHYSICAL EXAM 
Vital Signs: 98.3  106/69  73  16  97/RA 
Wt 86.41 kg (___) -> 81.9kg today
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, dry oral mucosa, oropharynx clear, 
PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm, no murmurs  
Lungs: No wheezing, crackles, or rhonci
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No swelling of the knees, elbows, wrists, fingers, toes, 
ankles. Normal painless ROM in all joints.  
Neuro: Moving all extremities with purpose, no facial asymmetry, 
normal gait

 
Pertinent Results:
ADMISSION
___ 08:26PM BLOOD WBC-5.3 RBC-3.34* Hgb-7.7* Hct-26.3* 
MCV-79* MCH-23.1* MCHC-29.3* RDW-16.4* RDWSD-46.7* Plt ___
___ 08:26PM BLOOD Neuts-53.1 ___ Monos-10.5 Eos-5.5 
Baso-0.2 NRBC-0.4* Im ___ AbsNeut-2.83 AbsLymp-1.62 
AbsMono-0.56 AbsEos-0.29 AbsBaso-0.01
___ 08:26PM BLOOD Glucose-91 UreaN-33* Creat-2.3* Na-143 
K-3.7 Cl-109* HCO3-20* AnGap-18
___ 08:26PM BLOOD ALT-17 AST-55* CK(CPK)-1004* AlkPhos-53 
TotBili-<0.2
___ 08:26PM BLOOD Albumin-2.3*
___ 06:35AM BLOOD TotProt-4.7* Calcium-6.9* Phos-3.5 Mg-2.2
___ 08:26PM URINE Color-Straw Appear-Clear Sp ___
___ 08:26PM URINE Blood-MOD Nitrite-NEG Protein-600 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:26PM URINE RBC-0 WBC-4 Bacteri-FEW Yeast-NONE Epi-<1
___ 08:26PM URINE Hours-RANDOM UreaN-634 Creat-158 Na-<20 
TotProt-1008 Prot/Cr-6.4* Albumin-633 Alb/Cre-4006.3*

PERTINENT
___ 11:22AM BLOOD WBC-3.4* RBC-2.51* Hgb-6.0* Hct-20.3* 
MCV-81* MCH-23.9* MCHC-29.6* RDW-16.5* RDWSD-48.9* Plt ___
___ 06:20AM BLOOD ___ PTT-29.2 ___
___ 08:26PM BLOOD Ret Aut-0.7 Abs Ret-0.02
___ 06:35AM BLOOD ALT-15 AST-47* LD(LDH)-573* CK(CPK)-837* 
AlkPhos-47 TotBili-<0.2 DirBili-<0.2
___ 06:30AM BLOOD Calcium-7.3* Phos-3.6 Mg-2.5 Iron-28* 
Cholest-163
___ 06:30AM BLOOD calTIBC-168* Ferritn-66 TRF-129*
___ 04:26PM BLOOD %HbA1c-5.9 eAG-123
___ 06:30AM BLOOD Triglyc-219* HDL-22 CHOL/HD-7.4 
LDLcalc-97
___ 06:30AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-NEGATIVE IgM HBc-Negative
___ 08:26PM BLOOD ANCA-NEGATIVE B
___ 06:26AM BLOOD ___
___ 08:26PM BLOOD ___ CRP-28.8*
___ 06:35AM BLOOD PEP-NO SPECIFI
___ 06:20AM BLOOD C3-111 C4-46*
___ 08:26PM BLOOD C3-108 C4-47*
___ 06:30AM BLOOD HCV Ab-Negative
___ 10:47AM URINE U-PEP-AWAITING F IFE-PND
___ 01:56PM URINE Hours-RANDOM Creat-81 TotProt-253 
Prot/Cr-3.1* Albumin-141.9 Alb/Cre-1751.9*
___ 10:47AM URINE Hours-RANDOM Creat-86 TotProt-216 
Prot/Cr-2.5* Albumin-111.0 Alb/Cre-1290.7*

DISCHARGE
___ 06:26AM BLOOD WBC-5.5 RBC-3.39* Hgb-8.2* Hct-27.0* 
MCV-80* MCH-24.2* MCHC-30.4* RDW-17.2* RDWSD-49.8* Plt ___
___ 06:26AM BLOOD Glucose-89 UreaN-16 Creat-1.7* Na-145 
K-3.4 Cl-107 HCO3-27 AnGap-14
___ 05:05PM BLOOD CK(CPK)-787*
___ 06:26AM BLOOD Albumin-2.3* Calcium-7.7* Phos-4.2 Mg-1.6

MICROBIOLOGY
___ 8:26 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
Renal US:
Echogenic kidneys suggestive of chronic medical renal disease.  
No 
hydronephrosis bilaterally. 

 
Brief Hospital Course:
___ year old female with history of hypertension, iron deficiency 
anemia, and asthma presenting with persistent nausea, vomiting, 
malaise, and loose stools, referred by urgent care urgent for 
evaluation of ___.

# Acute Kidney Injury/Nephrotic Syndrome: Patient presented with 
___, in the setting of heavy NSAID use due to viral URI/flu-like 
illness. Previously Cr 0.9 on ___ at PCP. Peak Creatinine 
here 3.0, improving subsequently with fluids and cessation of 
nephrotoxic medications. No evidence of ATN on urine sediment. 
Patient also noted nephrotic range proteinuria, also improved 
with recovery of renal function. Extensive workup for etiology 
sent. Resulted tests: HIV negative; lipids unremarkable; no e/o 
hemolysis; elevated CK; Hepatitis B and C serologies negative 
(no e/o HBV immunization); complement reasonably nl; SPEP with 
no specific protein. Additional renal workup tests pending, to 
be followed up by outpatient nephrologist Dr. ___. 

#Anemia: Hgb baseline ~9 dating back to ___ in ___ records. 
Hgb slightly worse at 7.7, MCV 79. Hb 6 at trough, now improved 
to 8.2 on discharge. No obvious bleeding, patient 
hemodynamically stable. Patient denies melena or hematochezia, 
less likely GI bleed.  Appropriate H/H improvement with 1 unit 
pRBC on ___. Likely acute (recent menstrual bleed, heavy NSAID 
use) on chronic (baseline iron deficiency anemia). Hemolysis 
labs: haptoglobin not low, Tbili not elevated, LDH 573. 
Discharged on pantoprazole 40 mg PO QDaily for possible 
gastritis and home ferrous sulfate BID - may need IV iron 
infusion as outpatient. 

#Viral syndrome:  Presents with cough, myalgias, fatigue, 
emesis, poor appetite. Likely cause ___ and elevated CK as 
above, in conjunction with NSAID use. No flu swab in ED, managed 
with supportive care. Subsequently improved, although some 
ongoing nausea/ very occasional vomiting which may be postnasal 
drip vs ongoing irritation from NSAIDs. 

#Hypertension: held home HCTZ in the setting of ___, started 
amlodipine as an inpatient. 

TRANSITIONAL ISSUES
-Dr. ___ will follow up pending laboratory evaluation in 
___
-Patient given rx for chem 10 on ___ will fax results 
to ___ office, please follow up to confirm ongoing stability or 
improvement in Creatinine
-Consider restarting HCTZ once Cr has normalized for BP control 
if needed, vs initiating ACEi for additional renal protection in 
place of her current CCB (no e/o CKD prior to presentation but 
unclear where she will stabilize).
-Continue Fe supplementation, including consideration of Fe 
infusions
-Patient reporting significant uterine bleeding, would work up 
etiology further, particularly uterine fibroids. 
-Consider stopping pantoprazole if GI symptoms resolve, as they 
are suspected to be related to NSAID use which has been stopped. 

# CODE: Full (confirmed) 
# CONTACT: Proxy name: ___ 
Relationship: husband Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Ferrous Sulfate Dose is Unknown  PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*15 Capsule Refills:*0 
3.  GuaiFENesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*6 Tablet Refills:*0 
5.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
7.  Ferrous Sulfate 325 mg PO BID  
8. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until your PCP 
follow ___- at that point you can discuss the appropriate 
antihypertensive medications you should take
9.Outpatient Lab Work
Please check Creatinine, Sodium, Potassium, Chloride, 
Bicarbonate, BUN, Calcium, Magnesium, and phosphorous. 
Please fax results to Dr ___ at ___ and Dr. 
___ at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Acute renal failure

SECONDARY
Anemia
Viral infection
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

Thank you for choosing to receive your care at ___. You were 
admitted for viral flu-like symptoms and found to have injury to 
your kidney. You underwent an extensive workup which did not 
demonstrate any specific concerning findings, and your kidney 
function improved with hydration and stopping certain 
medications, including ibuprofen, which can be harmful to the 
kidneys. This injury may have been entirely due to dehydration 
and medication effects, although you will continue to have 
ongoing workup as an outpatient. You were also found to be 
anemic and transfused 1u of blood cells, with subsequent 
improvement in your anemia; this may also be related to 
ibuprofen, but you should discuss the possibility this is 
related to heavy menstrual bleeding with your PCP. 

Moving forward, you should avoid ibuprofen and related 
medications (aleve, advil, naproxen, aspirin, etc) and use 
Tylenol or acetaminophen for pain control and fever.

Please see below for an updated medication list and your 
upcoming outpatient appointments. 

We wish you the best with your ongoing recovery. 

Regards,

your ___ care team 
 
Followup Instructions:
___